US03983239
Preparation of 2-benzyl-8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
To toluene (100 ml) are added 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (10 g), benzyl chloride (7.4 g) and triethylamine (8.1 g), and the mixture is refluxed for 15 hours. After cooling, the reaction mixture is washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove toluene. The resulting residue is treated with ethanolic hydrogen chloride in the same manner as described in Example 1 (1) to give the dihydrochloride of the titled compound (11.0 g), m.p. 179° - 182°C (recrystallized from ethanol).

reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 10 g | CC1=CC=2C3C(NC2C=C1)CCNC3 | C12H16N2
reactant | benzyl chloride | 7.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | triethylamine | 8.1 g | C(C)N(CC)CC | C6H15N
product | 2-benzyl-8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | C(C1=CC=CC=C1)N1CC2C(NC=3C=CC(=CC23)C)CC1 | C19H22N2
